US04614819
In 60 ml of acetic acid was dissolved 10.2 g of 3-oxothiobutyric acid-S-ethyl ester, and 5.8 g of sodium nitrite was added to the resulting solution over a period of 10 minutes while maintaining the temperature of the solution at 15°-20° C. After the resulting mixture was subjected to reaction at the same temperature for 50 minutes, the reaction mixture was introduced into a mixed solvent of 300 ml of ethyl acetate and 100 ml of water. The organic layer was separated, washed with 50 ml of saturated aqueous sodium chloride solution, and thereafter dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. After the residue thus obtained was dissolved in 200 ml of an aqueous solution containing 14.8 g of sodium carbonate, 70 ml of methanol was added to the resulting solution. To this solution was added dropwise 9.7 g of dimethyl sulfate at a temperature of 5°-10° C., the resulting mixture was subjected to reaction at room temperature for 1 hour. Then, the reaction mixture was introduced into 150 ml of ethyl acetate, and the organic layer was separated, washed with 50 ml of water and 30 ml of saturated aqueous sodium chloride solution in this sequence and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue obtained was distilled under reduced pressure to obtain 7.0 g (yield, 53.0%) of 2-methoxyimino-3-oxothiobutyric acid-S-ethyl ester (mixture of syn- and anti-isomers) having a boiling point of 95°-100° C./1 mmHg.

reactant | 3-oxothiobutyric acid-S-ethyl ester | 10.2 g | C(C)SC(CC(C)=O)=O | C6H10O2S
reactant | sodium nitrite | 5.8 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | 14.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethyl sulfate | 9.7 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 70 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-methoxyimino-3-oxothiobutyric acid-S-ethyl ester | 7.0 g, 53.0% | C(C)SC(C(C(C)=O)=NOC)=O | C7H11NO3S
